US06894061B2
Ethyl 2-ethoxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoate
A stirred suspension of 2-hydroxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoic acid (0.5 g, 1.26 mmol) and anhydrous potassium carbonate (0.36 g, 2.6 mmol) in anhydrous N,N-dimethylformamide (5 mL) was treated drop-wise at room temperature under nitrogen with a solution of iodoethane (0.405 g, 2.6 mmol) in anhydrous N,N-dimethylformamide (1 mL). The mixture was stirred at room temperature overnight. The reaction was diluted with diethyl ether and water. The organic phase was separated and washed sequentially with a 1 N hydrochloric acid solution and water. After drying over anhydrous sodium sulfate, the organic phase was filtered through a short column of silica gel, and the filtrate evaporated in vacuo to yield a crude product (0.5 g). The crude product was purified by preparative chromatography on a Biotage® 40 Mi column of pre-packed silica gel (90 g), eluting with a mixture of methyl tert-butyl ether-hexane (15:85) at a flow rate of 40 mL/min to afford, after evaporation of the solvent, a colorless solid. Crystallization of the colorless solid from a mixture of diethyl ether-hexane yielded the title compound (0.239 g, 0.53 mmol, 42%) as a homogeneous, white powder, m.p. 113-115° C.;

reactant | 2-hydroxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoic acid | 1.26 mmol, 0.5 g | OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C | C21H17NO5S
reactant | potassium carbonate | 2.6 mmol, 0.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 2.6 mmol, 0.405 g | ICC | C2H5I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Ethyl 2-ethoxy-5-[(6-methylphenanthridin-5(6H)-yl)sulfonyl]benzoate | 0.53 mmol, 0.239 g, 42% | C(C)OC1=C(C(=O)OCC)C=C(C=C1)S(=O)(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C | C25H25NO5S
